US09428509B2
4-Amino-3-methoxy-N-methylbenzamide
To a solution of 4-amino-3-methoxybenzoic acid (1 equiv) in N—N-dimethylformamide (0.6 M) was added sodium bicarbonate (9.7 equiv), HATU (2 equiv) and methyl amine hydrochloride (10 equiv). The reaction mixture was stirred at room temperature overnight. The reaction mixture was poured on water and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated under reduced pressure. The crude product was purified by column chromatography (silica gel 100-200 mesh, 0-10% MeOH in DCM as eluent) to give the title compound. (Yield: 63%). MS (ESI) m/z 181 [M+1]1.

reactant | 4-amino-3-methoxybenzoic acid | 1 equiv | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
reactant | sodium bicarbonate | 9.7 equiv | C([O-])(O)=O.[Na+]
reactant | HATU | 2 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | methyl amine hydrochloride | 10 equiv | Cl.CN
product | 4-Amino-3-methoxy-N-methylbenzamide | Yield: 63% | NC1=C(C=C(C(=O)NC)C=C1)OC | C9H12N2O2
